US08030334B2
A flask is charged with 2-[5-(2-methoxy-vinyl)-pyridin-3-yl]-1-methyl-1H-indole (0.550 g, 2.08 mmol) and methanol (5 mL). Palladium on carbon (0.221 g, 0.208 mmol) is added and the reaction mixture is stirred at 50° C. under H2 for 16 h. It is then cooled to room temperature and filtered through celite. The celite layer is thoroughly washed with methanol. The filtrate is concentrated in vacuo, to give a residue which is purified by silica gel flash chromatography (heptane-ethyl acetate, 7:3) to afford 2-[5-(2-methoxy-ethyl)-pyridin-3-yl]-1-methyl-1H-indole as an oil. MS (ESI) m/z 267.36 (M+H)+.

reactant | 2-[5-(2-methoxy-vinyl)-pyridin-3-yl]-1-methyl-1H-indole | 2.08 mmol, 0.550 g | COC=CC=1C=C(C=NC1)C=1N(C2=CC=CC=C2C1)C | C17H16N2O
catalyst | Palladium on carbon | 0.208 mmol, 0.221 g | [Pd] | Pd
solvent | methanol | 5 mL | CO | CH4O
product | 2-[5-(2-methoxy-ethyl)-pyridin-3-yl]-1-methyl-1H-indole | COCCC=1C=C(C=NC1)C=1N(C2=CC=CC=C2C1)C | C17H18N2O
